US04364875
2-Chloro-3-(2,5-dichloro-4-methylthio-phenoxy)-6-nitro-N-benzyl-aniline
A mixture of 4.6 gm of 2-chloro-4-nitro-3-phenoxy-1-(2,5-dichloro-4-methylthio-phenoxy)-benzene, 3.0 gm of benzylamine and 10 ml of dioxane was stirred for 6 hours at 40° C. Thereafter, the reaction mixture was allowed to stand overnight and was then evaporated. The residue was taken up in chloroform, and the resulting solution was extracted first with dilute sodium hydroxide and then with water, dried with sodium sulfate and evaporated. The dark brown oil left behind was purified on a silicagel column, yielding 4.2 gm of the thin-layer chromatographically uniform title compound in the form of an orange, viscous oil.

reactant | 2-chloro-4-nitro-3-phenoxy-1-(2,5-dichloro-4-methylthio-phenoxy)-benzene | 4.6 gm | ClC1=C(C=CC(=C1OC1=CC=CC=C1)[N+](=O)[O-])SC1=C(C=C(C(=C1)Cl)C)Cl | C19H12Cl3NO3S
reactant | benzylamine | 3.0 gm | C(C1=CC=CC=C1)N | C7H9N
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2-Chloro-3-(2,5-dichloro-4-methylthio-phenoxy)-6-nitro-N-benzyl-aniline | 4.2 gm | ClC1=C(NCC2=CC=CC=C2)C(=CC=C1SC1=C(C=C(C(=C1)Cl)C)Cl)[N+](=O)[O-] | C20H15Cl3N2O2S
